US07514567B2
(b) 4-Bromo-2-(2-pyridyl)-furan
Tetra-n-butylammonium fluoride (1M in tetrahydrofuran, 25.1 mL, 25.11 mmol) was added to a solution of 3-bromo-5-(2-pyridyl)-3-(trimethylsilyl)furan (4.96 g, 16.74 mmol) in tetrahydrofuran (50 mL). The reaction mixture was heated at 70° C. (bath temperature) for six hours. The reaction mixture was evaporated, and the residue was purified by flash chromatography using hexane as the eluant to give the sub-title compound as a pale brown solid (3.02 g), m/z 224, 226 (MH+).

reactant | Tetra-n-butylammonium fluoride | 25.11 mmol, 1M, 25.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-bromo-5-(2-pyridyl)-3-(trimethylsilyl)furan | 16.74 mmol, 4.96 g | BrC1(COC(=C1)C1=NC=CC=C1)[Si](C)(C)C | C12H16BrNOSi
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-Bromo-2-(2-pyridyl)-furan | 3.02 g | BrC=1C=C(OC1)C1=NC=CC=C1 | C9H6BrNO
